US07157491B2
4-(4-Hydroxyphenyl)-1-benzothiophene-7-carbaldehyde
To a 10 ml round bottom flask a solution of 62.5% pure 4-(4-methoxyphenyl)-1-benzothiophene-7-carbaldehyde (remainder 37.5% 4-(4-methoxyphenyl)-1-benzothiophene-2-carbaldehyde) (102 mg, 0.38 mmol) and CH2Cl2 (2 ml) was cooled to −78° C. Then BBr3 (0.8 ml 1.0 M in CH2Cl2, 0.8 mmol) was added dropwise after which the reaction turned dark red in color. The reaction was allowed to warm to room temperature and after 1 h the reaction was complete by TLC then quenched by pouring into water (15 ml). The mixture was diluted with ether, the layers separated and the aqueous was further extracted with ether. The organic layers were combined, dried over anhydrous Na2SO4, passed through a silica plug and concentrated to a greenish solid. Reverse phase HPLC (CH3CN 0.1% TFA, water 0.1% TFA) afforded 50 mg (52%) desired product as a yellow solid: mp 203–204° C.; 1H NMR (300 MHz, DMSO-d6): δ 6.96 (2H, d, J=8.5 Hz), 7.50 (2H, d, J=8.5 Hz), 7.56 (1H, d, J=5.6 Hz), 7.62 (1H, d, J=7.5 Hz), 7.97 (1H, d, J=5.6 Hz), 8.16 (1H, d, J=7.5 Hz), 9.84 (1H, s), 10.25 (1H, s); MS (ESI) m/z 253 ([M−H])

reactant | 4-(4-methoxyphenyl)-1-benzothiophene-7-carbaldehyde | 0.38 mmol, 102 mg | COC1=CC=C(C=C1)C1=CC=C(C2=C1C=CS2)C=O | C16H12O2S
reactant | BBr3 | 0.8 mmol, 1.0 M, 0.8 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Hydroxyphenyl)-1-benzothiophene-7-carbaldehyde | 50 mg, 52% | OC1=CC=C(C=C1)C1=CC=C(C2=C1C=CS2)C=O | C15H10O2S
